US09062056B2
(R)-3-(5-Methyl-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl)-3-phenyl-propionic acid ethyl ester
To a solution of (R)-3-(3-amino-6-methyl-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester (390 mg, 1.30 mmol) in THF (10 mL) was added CDI (317 mg, 1.95 mmol). The reaction mixture was stirred at room temperature for 2 hours and then heated to 60° C. for another 2 hours. The reaction mixture was diluted with ethyl acetate and washed with water. The organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel prep TLC using 95:5 CH2Cl2:MeOH as an eluent to afford 250 mg (59%) of the title compound as a light brown foamy residue. LCMS, M++1, m/z: 326.43

reactant | (R)-3-(3-amino-6-methyl-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester | 1.30 mmol, 390 mg | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=CC=C1N)C)=O | C17H21N3O2
reactant | CDI | 1.95 mmol, 317 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-(5-Methyl-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl)-3-phenyl-propionic acid ethyl ester | 250 mg, 59% | C(C)OC(C[C@H](C1=CC=CC=C1)N1C(NC=2C1=NC(=CC2)C)=O)=O | C18H19N3O3
